US07625914B2
3 g (20 mmol) of 4-formylbenzeneboronic acid are added to a solution of 4.75 g (15 mmol) of N-(4-bromothiophen-2-ylmethyl)-N-methylbenzamide in 60 ml of toluene, followed by dropwise addition of 5.5 g (40 mmol) of aqueous potassium carbonate solution. The reaction medium is degassed, 530 mg (0.5 mmol) of tetrakis (triphenylphosphine) palladium are then added and the medium is heated at 80° C. for 18 hours. After extraction with ethyl acetate and washing with water, the organic phase is dried over magnesium sulfate, filtered and concentrated under vacuum. The residue obtained is purified by chromatography on a column of silica eluted with a 1/1 heptane/ethyl acetate mixture. 4 g (78%) of N-[4-(4-formylphenyl)thiophen-2-ylmethyl]-N-methyl-benzamide are obtained.

reactant | 4-formylbenzeneboronic acid | 20 mmol, 3 g | C(=O)C1=CC=C(C=C1)B(O)O | C7H7BO3
reactant | N-(4-bromothiophen-2-ylmethyl)-N-methylbenzamide | 15 mmol, 4.75 g | BrC=1C=C(SC1)CN(C(C1=CC=CC=C1)=O)C | C13H12BrNOS
reactant | potassium carbonate | 40 mmol, 5.5 g | C([O-])([O-])=O.[K+].[K+]
solvent | toluene | 60 ml | C1(=CC=CC=C1)C | C7H8
catalyst | tetrakis (triphenylphosphine) palladium | 0.5 mmol, 530 mg | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | N-[4-(4-formylphenyl)thiophen-2-ylmethyl]-N-methyl-benzamide | 4 g, 78% | C(=O)C1=CC=C(C=C1)C=1C=C(SC1)CN(C(C1=CC=CC=C1)=O)C | C20H17NO2S
